US05084084
Synthesis of 3-(7-fluoro-3-oxo-4-propargyl-2H -1,4-benzoxazin-6-yl)-1-methyl-6-trifluoromethyl -2,4(1H,3H)-pyrimidinedione (compound A-1)
0.18 g of 3-(7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazin-6-yl)-6-trifluoromethyl-2,4(1H,3H) -pyrimidinedione was added at room temperature in a dimethylformamide solution (2 ml) having suspended therein 0.02 g of sodium hydride (purity: 55%). After standing for 20 minutes, the solution was further added with 0.09 g of dimethylsulfuric acid and stirred overnight. Then dimethylformamide was distilled off and the residue was extracted with ethyl acetate by adding water. The extract was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then ethyl acetate was distilled off to obtain a crude product. This crude product was purified by preparative thin-layer chromatography using hexane/ethyl acetate (3:1) as developing solvent to obtain 0.15 g of the objective compound as a colorless viscous oil. It was solidified when left as it was.

reactant | 3-(7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazin-6-yl)-6-trifluoromethyl-2,4(1H,3H) -pyrimidinedione | 0.18 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(NC(=CC1=O)C(F)(F)F)=O | C16H9F4N3O4
reactant | sodium hydride | 0.02 g | [H-].[Na+]
reactant | dimethylsulfuric acid | 0.09 g | COS(OC)(=O)=O | C2H6O4S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(7-fluoro-3-oxo-4-propargyl-2H -1,4-benzoxazin-6-yl)-1-methyl-6-trifluoromethyl -2,4(1H,3H)-pyrimidinedione | 0.15 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H11F4N3O4
